US05719157
m-Chloroperbenzoic acid (80%, 1,4 g) was added under ice-cooling to a solution of ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(1-methylimidazol-2-ylmethylthio)quinoline-3-carboxylate (3.0 g) in dichloromethane (90 ml), and the mixture was stirred at the same temperature for 3 hours. The reaction mixture was washed successively with an aqueous saturated NaHSO3 solution, aqueous saturated sodium bicarbonate solution and water and dried over magnesium sulfate, and the solvent was evaporated. The residual oil was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate/dichloromethane (4:1, v/v) gave ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(1-methylimidazol-2-ylmethylsulfinyl)quinoline-3-carboxylate (2.17 g, 70%). mp. 151°-152° C.

reactant | m-Chloroperbenzoic acid | 1,4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(1-methylimidazol-2-ylmethylthio)quinoline-3-carboxylate | 3.0 g | COC=1C=C2C(=C(C(=NC2=CC1OC)SCC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O6S
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(1-methylimidazol-2-ylmethylsulfinyl)quinoline-3-carboxylate | 2.17 g, 70% | COC=1C=C2C(=C(C(=NC2=CC1OC)S(=O)CC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O7S
